US07186715B2
Step 1: 4-[2-(2-Benzyloxycarbonylamino-propoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
(3-Hydroxy-2-methyl-propyl)-carbamic acid benzyl ester (5.0 g, 24.0 mmol) was dissolved in THF (175 mL) at 0° C. 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (6.7 g, 24.0 mmol) and triphenylphosphine (7.6 g, 29.0 mmol) were added. Diisopropyl azodicarboxylate (5.75 mL, 29.0 mmol) was added dropwise, and the mixture was stirred overnight. The mixture was concentrated under reduced pressure and purified using silica gel chromatography (25% ethyl acetate in hexanes) to afford the title compound (5.33 g, 47%).

reactant | (3-Hydroxy-2-methyl-propyl)-carbamic acid benzyl ester | 24.0 mmol, 5.0 g | C(C1=CC=CC=C1)OC(NCC(CO)C)=O | C12H17NO3
reactant | 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 24.0 mmol, 6.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | triphenylphosphine | 29.0 mmol, 7.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 29.0 mmol, 5.75 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 4-[2-(2-Benzyloxycarbonylamino-propoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 5.33 g, 47% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC(C)NC(=O)OCC1=CC=CC=C1 | C26H35N3O5
